US08476474B2
Preparation of N,N-diphenyl-4-(phenyl(trimethylsilyl)methyl)aniline
4-benzyl-N,N-diphenylaniline (5.0 g, 14.9 mmol) was dissolved in tetrahydrofuran (80 mL) under a nitrogen atmosphere. n-Butyllithium (10.3 mL, 16.4 mmol) was slowly added to the reaction solution at −78° C., and then the reaction mixture solution was stirred at room temperature for 1 hour. Also, the reaction mixture solution with chlorotrimethylsilane (1.8 g, 16.4 mmol) added thereto was stirred at room temperature for 1 hour. The reaction mixture solution was passed through a silica gel column by using hexane as an eluant. After the solvent is removed, the residue material was dried in vacuum to thereby a white solid (5.1 g, yield: 84%).

reactant | 4-benzyl-N,N-diphenylaniline | 14.9 mmol, 5.0 g | C(C1=CC=CC=C1)C1=CC=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C25H21N
reactant | n-Butyllithium | 16.4 mmol, 10.3 mL | C(CCC)[Li]
reactant | chlorotrimethylsilane | 16.4 mmol, 1.8 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | N,N-diphenyl-4-(phenyl(trimethylsilyl)methyl)aniline | 5.1 g, yield: 84% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C([Si](C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C28H29NSi
